US07470790B2
Synthesis of [6-(4-hydroxy-pyrrolidin-3-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester (II-1)
A suspension of [6-(1-benzyl-4-hydroxy-pyrrolidin-3-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester I-3 (0.002 mol) and 10% Pd—C (0.7 g) in MeOH (30 mL) was stirred at 45° C. under hydrogen overnight. Then, the catalyst was removed by filtration and washed with MeOH (30 mL). The filtrate was concentrated to give II-1. Most of the product was used in the next reaction without further purification (100%). Some was purified by column chromatography (silica gel, CH2Cl2:MeOH:Et3N, 6:30:0.1) to determine NMR and mass spectrum.

reactant | [6-(1-benzyl-4-hydroxy-pyrrolidin-3-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)CC1CN(CC1O)CC1=CC=CC=C1)=O | C22H29N3O3
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd—C | 0.7 g | [Pd] | Pd
product | [6-(4-hydroxy-pyrrolidin-3-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)CC1CNCC1O)=O | C15H23N3O3
